US08809337B2
5-(3,5-Difluoro-benzenesulfonyl)-3-[4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzoylamino]-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-1-carboxylic acid ethyl ester (D02)
To a solution of N-[5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-3-yl]-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide (1.38 g, 2.24 mmol) in anhydrous THF (150 mL), cooled to −40° C., under argon, was added lithium bis(trimethylsilyl)amide 1.0 M in THF (2.35 mL, 2.35 mmol). The mixture was stirred for 5 min. then ethyl chloroformate (0.225 mL, 2.35 mmol) was added. The reaction was stirred at −40° C. for 1 h, then was poured in water and extracted with ethyl acetate. The organic phase was washed with water, brine and dried with sodium sulfate. After filtration and evaporation the crude was triturated with ether to give the title compound as white solid (1.32 g, 86%).

reactant | N-[5-(3,5-difluoro-benzenesulfonyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridin-3-yl]-4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzamide | 2.24 mmol, 1.38 g | FC=1C=C(C=C(C1)F)S(=O)(=O)N1CC2=C(CC1)NN=C2NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)=O | C29H35F2N7O4S
reactant | lithium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl chloroformate | 2.35 mmol, 0.225 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 2.35 mmol, 2.35 mL | C1CCOC1 | C4H8O
product | 5-(3,5-Difluoro-benzenesulfonyl)-3-[4-(4-methyl-piperazin-1-yl)-2-(tetrahydro-pyran-4-ylamino)-benzoylamino]-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-1-carboxylic acid ethyl ester | 1.32 g, 86% | C(C)OC(=O)N1N=C(C=2CN(CCC21)S(=O)(=O)C2=CC(=CC(=C2)F)F)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)=O | C32H39F2N7O6S
